* BFG11W_X SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT343X DIE MODEL : BLT11
* 1: COLLECTOR; 2: BASE; 3: EMITTER
.SUBCKT BFG11W_X 1 2 3
Q1 6 5 7 7 BLT11
* SOT343X parasitic model
               Lb  4 5 .4n
               Le  7 8 .4n
               L1  2 4 .34n
               L2  1 6 .1n
               L3  3 8 .25n
              Ccb  4 6 50f
              Cbe  4 8 70f
*
* PHILIPS SEMICONDUCTORS                                 Version:         3.0
* Filename:    BLT11.PRM                                 Date: September 1993
*
.MODEL  BLT11   NPN
+(
+              IS = 3.33800E-015
+              BF = 9.71400E+001
+              NF = 9.88400E-001
+             VAF = 3.14000E+001
+             IKF = 5.14500E+001
+             ISE = 2.35300E-011
+              NE = 2.38600E+000
+              BR = 1.37300E+001
+              NR = 9.88800E-001
+             VAR = 2.44800E+000
+             IKR = 1.00000E+002
+             ISC = 5.41000E-014
+              NC = 1.22400E+000
+              RB = 1.74000E+000
+             IRB = 1.00000E-006
+             RBM = 1.74000E+000
+              RE = 5.96500E-002
+              RC = 1.23800E-001
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 9.55500E-012
+             VJE = 6.00000E-001
+             MJE = 3.15100E-001
+              TF = 1.29600E-011
+             XTF = 4.00000E+002
+             VTF = 8.66100E-001
+             ITF = 5.94000E+000
+             CJC = 4.27400E-012
+             VJC = 6.50000E-001
+             MJC = 3.92100E-001
+)
.ENDS